US07728025B2
(Step 3) Production of N-(4-(1-acetylpyrrolidin-2-yl)-3-fluorophenyl)pyrazine-2-carboxamide
1.5 ml of acetic anhydride was added to a pyridine (50 ml) solution of 4.3 g of N-(3-fluoro-4-pyrrolidin-2-ylphenyl)pyrazine-2-carboxamide dihydrochloride, and the reaction liquid was stirred at room temperature for 20 minutes. The reaction liquid was diluted with chloroform, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=50/1) to obtain the entitled compound as a yellow solid.

reactant | acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | N-(3-fluoro-4-pyrrolidin-2-ylphenyl)pyrazine-2-carboxamide dihydrochloride | 4.3 g | Cl.Cl.FC=1C=C(C=CC1C1NCCC1)NC(=O)C1=NC=CN=C1
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(1-acetylpyrrolidin-2-yl)-3-fluorophenyl)pyrazine-2-carboxamide | C(C)(=O)N1C(CCC1)C1=C(C=C(C=C1)NC(=O)C1=NC=CN=C1)F | C17H17FN4O2
